US04489094
4-[[3-(p-Chlorophenyl)propyl]ethylamino]benzoic acid
A 2.0 g. portion of 4-[[3-(p-chlorophenyl)propyl]ethylamino]benzoic acid, ethyl ester is dissolved in 50 ml. of 95% ethanol. A 4.0 g. portion of potassium hydroxide is added, and the solution is refluxed overnight. The solution is filtered, then diluted with 100 ml. of water, and adjusted to pH 6.5 with 37% hydrochloric acid. This mixture is extracted with two 50 ml. portions of dichloromethane, which are combined, washed with 50 ml. of water, and evaporated to an oil. This oil is chromatographed on a silica gel column, eluting with chloroform, followed by 10% ethyl acetate in chloroform. The ethyl acetate-chloroform eluate is crystallized from ethanol, giving 700 mg. of the desired product as a tan solid.

reactant | 4-[[3-(p-chlorophenyl)propyl]ethylamino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)OCC)C=C1)CC | C20H24ClNO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[[3-(p-Chlorophenyl)propyl]ethylamino]benzoic acid | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)O)C=C1)CC | C18H20ClNO2
